US05559113
4-[2-(3-Cyanophenoxy)ethyl]-1H-imidazole
240 mg (60% in oil; 6 mmol) of sodium hydride are added to a solution of 1.43 g (12 mmol) of 3-hydroxybenzonitrile in 10 ml of dimethylformamide and the mixture is stirred at room temperature for 1 hour under nitrogen. 200 mg (1.2 mmol) of 4-(2-chloroethyl)-1H-imidazole hydrochloride and tetrabutylammonium iodide (catalytic amount) are added and the mixture is heated for 3 hours at 80° C. The solvent is evaporated under reduced pressure and the oily residue is stirred in ethanol and filtered. The filtrate is evaporated and the residue is purified by chromatography on a column of silica gel (first eluent chloroform, second eluent 95/5 chloroform/methanol). The title compound is converted to the oxalate and crystallized from a 2/1 ethanol/diethyl ether mixture, M.p.: 189°-190° C.

reactant | sodium hydride | 6 mmol, 240 mg | [H-].[Na+]
reactant | 3-hydroxybenzonitrile | 12 mmol, 1.43 g | OC=1C=C(C#N)C=CC1 | C7H5NO
reactant | 4-(2-chloroethyl)-1H-imidazole hydrochloride | 1.2 mmol, 200 mg | Cl.ClCCC=1N=CNC1
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
catalyst | tetrabutylammonium iodide | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 4-[2-(3-Cyanophenoxy)ethyl]-1H-imidazole | C(#N)C=1C=C(OCCC=2N=CNC2)C=CC1 | C12H11N3O
